US06090809
Scheme-III: A mixture of 1-chloro-4-(2,5-dioxopyrrolidin-1-yl)butane (11.0 g, 58.04 mmol), 1-[2-methoxyphenyl)piperazin hydrochloride (12.99 g, 56.85 mmol), potassium carbonate (16.02 g, 116.09 mmol) and potassium iodide (0.577 g, 3.48 mmol) in N,N-dimethylformamide (45 ml) was stirred at 100° C. for 18 hours. N,N-dimethylformamide was evaporated at reduced pressure and the residue was taken up in water (100 ml) and extracted with chloroform (2×100 ml). The extracts were dried over Na2SO4 and concentrated under reduced pressure to give 1-[4-(2-methoxyphenyl)piperazine-1-yl]-4-(2,5-dioxopyrrolidin-1-yl)butane as an oil which was purified by column chromatography over silica gel (230-400 mesh) using chloroform-methanol (98.2) as eluent; yield 18.00 g, (92%), oil. Hydrochloride salt was prepared by the method described above; mp 218-220° C.

reactant | 1-chloro-4-(2,5-dioxopyrrolidin-1-yl)butane | 58.04 mmol, 11.0 g | ClCCCCN1C(CCC1=O)=O | C8H12ClNO2
reactant | 1-[2-methoxyphenyl)piperazin hydrochloride | 56.85 mmol, 12.99 g | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | potassium carbonate | 116.09 mmol, 16.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.48 mmol, 0.577 g | [I-].[K+]
solvent | N,N-dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 1-[4-(2-methoxyphenyl)piperazine-1-yl]-4-(2,5-dioxopyrrolidin-1-yl)butane | COC1=C(C=CC=C1)N1CCN(CC1)CCCCN1C(CCC1=O)=O | C19H27N3O3
